US06638967B2
Step B 4-Pyrrolidin-1-ylmethyl-benzoic acid methyl ester
A solution of 4-formyl-benzoic acid methyl ester (10 g), pyrrolidine (5.6 mL), and acetic acid (3.5 mL) in DCM (200 mL) was treated with sodium triacetoxyborohyride (20.65 g) and stirred at rt for 16 hours. The reaction mixture was then quenched with 3N NaOH (70 mL). The organic layer was dried over sodium sulfate and concentrated to yield the titled compound without purification.

reactant | 4-formyl-benzoic acid methyl ester | 10 g | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | pyrrolidine | 5.6 mL | N1CCCC1 | C4H9N
reactant | acetic acid | 3.5 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohyride | 20.65 g | [B-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-Pyrrolidin-1-ylmethyl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN1CCCC1)=O | C13H17NO2
